US04081440
EXAMPLE 9 -- Preparation of 2,2,2-Trichloroethyl 3-Methyl-2-(2-chlorosulfinyl-4-oxo-3-phenylacetamido-1-azetidinyl)-3-butenoate
A solution of 500 mg. of 2,2,2-trichloroethyl 6β-phenylacetamido-2,2-dimethylpenam-3-carboxylate-1-oxide and 134 mg. of N-chlorosuccinimide in 40 ml. of dry toluene was refluxed for 90 minutes. The mixture was cooled, washed with H2O and brine, dried over MgSO4, and the solvent was evaporated on a rotavapor. The title compound was recovered as a colorless foam.

reactant | 2,2,2-trichloroethyl 6β-phenylacetamido-2,2-dimethylpenam-3-carboxylate-1-oxide | C1(=CC=CC=C1)CC(=O)N[C@H]1[C@@H]2N(C(C(S2=O)(C)C)C(=O)OCC(Cl)(Cl)Cl)C1=O | C18H19Cl3N2O5S
reactant | N-chlorosuccinimide | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2,2,2-Trichloroethyl 3-Methyl-2-(2-chlorosulfinyl-4-oxo-3-phenylacetamido-1-azetidinyl)-3-butenoate | CC(C(C(=O)OCC(Cl)(Cl)Cl)N1C(C(C1=O)NC(CC1=CC=CC=C1)=O)S(=O)Cl)=C | C18H18Cl4N2O5S
